US05212182
N-(1-Butyl-4-piperidinyl)-4-[(4-quinolinylmethyl)amino]benzamide
The title compound was prepared from 4-[(4-quinolinylmethyl)amino]benzoic acid and 4-amino-1-butylpiperidine bishydrochloride by the procedure described in Example 18, m.p. 189°-190° C.

reactant | 4-[(4-quinolinylmethyl)amino]benzoic acid | N1=CC=C(C2=CC=CC=C12)CNC1=CC=C(C(=O)O)C=C1 | C17H14N2O2
reactant | 4-amino-1-butylpiperidine bishydrochloride | Cl.Cl.NC1CCN(CC1)CCCC
product | N-(1-Butyl-4-piperidinyl)-4-[(4-quinolinylmethyl)amino]benzamide | C(CCC)N1CCC(CC1)NC(C1=CC=C(C=C1)NCC1=CC=NC2=CC=CC=C12)=O | C26H32N4O
